US08530663B2
2-Bromofuran-3-carboxylic acid (5.0 g, 26 mmol, 1 eq.) was dissolved in MeOH (100 mL) and the mixture was degassed and purged with nitrogen (2×). SO2Cl2 (15 mL, 0.2 mol, 7.7 eq.) was added dropwise and the resulting mixture was stirred for two days at room temperature. The mixture was then concentrated and DCM (150 mL) was added. Saturated NaHCO3 (20 mL) was added, and the resulting mixture was stirred at room temperature for 15 minutes. The organic layer was washed with saturated NaHCO3 (20 mL), water (20 mL), and saturated aqueous NaCl (20 mL), then dried over Na2SO4, filtered and concentrated to yield 2-bromofuran-3-carboxylic acid methyl ester (5.0 g) as a brown solid.

reactant | 2-Bromofuran-3-carboxylic acid | 26 mmol, 5.0 g, 1 eq. | BrC=1OC=CC1C(=O)O | C5H3BrO3
reactant | MeOH | 100 mL | CO | CH4O
product | 2-bromofuran-3-carboxylic acid methyl ester | 5.0 g | COC(=O)C1=C(OC=C1)Br | C6H5BrO3
